data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,5050,"C[Si](C)(C)C[CH:1]=[CH2:2].[H:3][I:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,8349,"CC1=CC(C(C)(C)C)=[NH+]C(C(C)(C)C)=C1.COC(=O)C1C2=C(CCN3CCC1[C-:1]([S+:2](C)[O:3]C(=O)C(F)(F)F)C3=O)C1=C(C=CC=C1)N2C(=O)OC.O=C([O-])C(F)(F)F|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,2800,"O=S(=O)(O)[O-:1].O=[N+]([O-])[C:2]1([H:3])SC=C[CH+:4]1|(1, 3);((3, 2), 4)"
train,pmechdb_split_0,0,4296,"COC1=CC(CBr)[S+:1](C(C)(C)C)[Li-:2][O]1|((2, 1), 1)"
train,pmechdb_split_0,0,2550,"CC1[C:1](C)(CCCC[OH:2])[Br+:3]1|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,8461,"C1=NC([S-:1])=NN1.CCO.CC[NH+](CC)CC.N#CC1=CC=CC(OCC[CH2:2][Cl:3])=C1|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,8117,"O[C:1](OCC[O-:2])=[O:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,839,"CC[SH:1].[CH2:2]=[CH:3][CH:4]=[O:5]|(1, 2);((2, 3), 4);((4, 5), 5)"
train,pmechdb_split_0,0,42,"CN[CH:1]=[NH+:2]C.[Cl-].[OH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,10315,"C1CCC2=[N:1]CCCN2CC1.C1C[CH:2]=[CH:3][C:4](=[O:5])C1.O=CC1CCCCC1|(1, 2);((2, 3), 4);((4, 5), 5)"
train,pmechdb_split_0,0,6923,"CC(C)C(=O)CC[C:1]([CH2:2][H:3])=[O:4].CCO.O.[Na][OH:5]|(5, 3);((3, 2), 1);((1, 4), 4)"
train,pmechdb_split_0,0,5452,"C[C:1]1=[CH:2][CH:3]=[CH:4]C=C1.O=[S+:5](=O)O|((1, 2), 3);((3, 4), 5)"
train,pmechdb_split_0,0,6261,"BrC(Br)Br.COC(=O)C1=CC=C([CH2:1][O:2][P+:3](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.[Br-:4]|(4, 1);((1, 2), 3)"
train,pmechdb_split_0,0,9252,"CC[O+:1](C(C)O)[H:2].O=S(=O)(O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,4688,"C=CC(C(C)=O)C(C)(C=CC)[O-:1].[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,6919,"C[C:1](C)([OH2+:2])[S:3]CCS|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,1739,"CO[C:1](C1(C2=CC=CC=C2)CC[NH+](C)CC1)([NH3+:2])[O:3]C.O=S(=O)([O-])[O-]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,9507,"CCCC1=C(CC)C(C)=CC=C1[S+:1]1C(CC)(CC)[C:2]1(C)C(Cl)=CP1(=[O:3])OCC(C)O1.[Cl-]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3289,"COC1=CC=C(COC2CC(CC(OC)C(CO[Si](C3=CC=CC=C3)(C3=CC=CC=C3)C3=CC=CC=C3)N[P+:1](C3=CC=CC=C3)(C3=CC=CC=C3)C3=CC=CC=C3)OC(C)(OC)C2)C=C1.N#N.[OH-:2]|(2, 1)"
train,pmechdb_split_0,0,6741,"C[S+:1](C)I.[I-:2]|(2, 1)"
train,pmechdb_split_0,0,45,"C[S+:1](C)Br.[Br-:2]|(2, 1)"
train,pmechdb_split_0,0,6642,"O=C1O[I:1](O)(=[OH+:2])C2=C1C=CC=C2|((1, 2), 2)"
train,pmechdb_split_0,0,5928,"C1=CC=CC=C1.C1CCC(N2CCCC2)([O-:1])CC1.C1CC[NH+:2]([H:3])C1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,3559,"CON1C(=O)C2(CC(C(O)=[O:1])C3COC2C(=O)C3)C2=C1C=CC=C2.O=C(Cl)[C:2](Cl)=[O:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,73,"O=P(O)(O)[O:1][H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2045,"C1=CC=[N+:1]([H:2])C=C1.CC(NO)(C1=CN=CC=C1)[OH:3].[Cl-]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,591,"CC(C)[O-].CC(C)[O][Al-:1]([O]CC1=CC=CC=C1)([O]C(C)C)[OH+:2]C(C)C|((1, 2), 2)"
train,pmechdb_split_0,0,8436,"C[S:1](C)(O)[S:2]C1=CC=CC=C1|((1, 2), 2)"
train,pmechdb_split_0,0,8125,"C1=CC=C([P:1](C2=CC=CC=C2)C2=CC=CC=C2)C=C1.N#CC1=CC=C([CH2:2][Br:3])C=C1|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,8400,"C1=CC=CC=C1.C1CC[NH:1]C1.[O-]C1([N+:2]2([H:3])CCCC2)CCCCC1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,4219,"CC[OH+:1][H:2].[Cl-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9836,"CC[C:1]1([H:2])CCCC(C)[CH:3]1[Cl:4].[OH-:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,1149,"CCC[CH:1](C(C)(C=NC(C)(C)C)[Si](CC)(CC)CC)[OH2+:2].O.O=C([O-])C(F)(F)F|((1, 2), 2)"
train,pmechdb_split_0,0,235,"CO[CH:1]([NH+:2](C)C)[OH:3].[Cl-]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,9868,"CCNC(C)(C)[OH:1].[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,7008,"COC1=C(OC)C2=C(C=C1)CC1C3=C(C=C4OCOC4=C3)CC[N:1]1C2.ClC1=CC([C:2](=[OH+:3])[O:4][O-:5])=CC=C1|(1, 5);((5, 4), 2);((2, 3), 3)"
train,pmechdb_split_0,0,5236,"O[C:1](OCC[OH:2])=[OH+:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,9687,"CCO.CCOC(=O)[C:1](=[CH:2]C1=C(CCC2=CC(Br)=CC=C2)ON=C1C)[C:3](C)=[O:4].CCOC(=O)[CH:5]=[C:6](C)[NH2:7].O.[NH4+]|(7, 6);((6, 5), 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,619,"CO[PH+:1](Cl)[O:2][CH3:3].[Cl-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,4183,"C[NH2:1].O=CCCC(=O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,9304,"CC(C)O[B:1](O)C1=C(Cl)N=CC=C1.CC(C)[O-].[Li+].[OH-:2]|(2, 1)"
train,pmechdb_split_0,0,6606,"CC(=O)[O:1][C:2](C)(ON=CC(O)CO)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,4968,"C1CCC([OH+:1][H:2])CC1.O=S(=O)([O-])O.OC(CC1=CC=CC=C1)(OC1CCCCC1)[OH:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3086,"CCCC[B-:1](CCCC)([O:2][C:3](CC(OCC1=CC=C(OC)C=C1)C(C)C)=[CH2:4])[O+:5]=[CH:6]CCC1=CC=CC=C1.CC[NH+](C(C)C)C(C)C.O=S(=O)([O-])C(F)(F)F|((1, 2), 3);((3, 4), 6);((6, 5), 5)"
train,pmechdb_split_0,0,6868,"C[S:1][CH:2]=[O:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,5378,"C1=CC=C([P:1](C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CCCOC(=O)C([N-][N+:2]#[N:3])C1=CC=CC=C1.[OH3+]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,1567,"O.O=S(=O)([O-])O.OC1(C[N:1]=[N:2][OH2+:3])CC2C=CC1O2.[Na+]|(1, 2);((2, 3), 3)"
